US07777047B2
7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide
A mixture of 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (320 mg), Lawesson's reagent (213 mg) and tetrahydrofuran (5 ml) was stirred at 70° C. for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from methylene chloride-toluene mixture, and washed with hexane to give the title compound (148 mg, yield 44%) as crystals. melting point 204-205° C.

reactant | 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 320 mg | C(C)(C)N(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C=1SC=CC1 | C16H17N3O3S2
reactant | Lawesson's reagent | 213 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 7-[isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carbothioamide | 148 mg, yield 44% | C(C)(C)N(C=1C=CC=C2C=C(NC12)C(N)=S)S(=O)(=O)C=1SC=CC1 | C16H17N3O2S3
